US04504412
5.65 Grams (0.04 moles) of 2-(4-methylcyclohexoxy)ethanol (prepared above), 0.8 gm of Amberlyst 15 and 100 ml. of acetic anhydride are charged to a 250 ml flask fitted with a magnetic stirrer and Friedrick condenser. The mixture is heated at reflux for 11/2hours, filtered, and acetic anhydride removed by evaporation. The mixture is distilled and 7.92 gms of 2-(4-methylcyclohexoxy)ethylacetate obtained. The structure of the 2-(4-methylcyclohexoxy)ethylacetate is confirmed by NMR. The 2-(4-methylcyclohexoxy)ethylacetate has an extremely pleasant natural, fruity, wine-like odor.

reactant | 2-(4-methylcyclohexoxy)ethanol | 0.04 moles | CC1CCC(CC1)OCCO | C9H18O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(4-methylcyclohexoxy)ethylacetate | 7.92 gms | CC1CCC(CC1)OCCOC(C)=O | C11H20O3
